US07615661B2
Structure I: 2-Mercapto-2-methyl-propionic acid ethyl ester
Ethyl 2-bromoisobutyrate (48.8 g, 0.250 mole), sodium hydrosulfide hydrate (84 g, 1.5 mole), water (100 mL), ethyl alcohol (200 mL). Let reaction mix stir at room temperature. Next day, no starting material observed. Crude yield: 74.3%; distillation yield: 36.0%.

reactant | Ethyl 2-bromoisobutyrate | 0.250 mole, 48.8 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | sodium hydrosulfide hydrate | 1.5 mole, 84 g | O.[SH-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | ethyl alcohol | 200 mL | C(C)O | C2H6O
product | 2-Mercapto-2-methyl-propionic acid ethyl ester | yield: 36.0% | C(C)OC(C(C)(C)S)=O | C6H12O2S
